US04176184
(b) 7,7-Dimethyl-2-(4-chloro-phenyl)-5-[2-(N-methyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino)-ethyl]-5H,7H-imidazo[4,5-h]-isoquinoline-4,6-dione dihydrochloride
A mixture consisting of 1.5 gm of 7,7-dimethyl-2-(4-chlorophenyl)-5-(2-chloro-ethyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione and 1.7 gm of N-methyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amine was heated at 150° C. for 3 hours. After cooling the reaction mixture was dissolved in chloroform, and the solution was washed with water. The chloroform phase was evaporated, and the residue was chromatographed on a silicagel column (eluant: chloroform/acetone 19:1). The dihydrochloride was precipitated from acetone by addition of ethereal hydrochloric acid and recrystallized from methylene chloride/acetone.

reactant | 7,7-dimethyl-2-(4-chlorophenyl)-5-(2-chloro-ethyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | 1.5 gm | CC1(N=CC2=C3C(C(C(C2C1=O)CCCl)=O)=NC(=N3)C3=CC=C(C=C3)Cl)C | C20H17Cl2N3O2
reactant | N-methyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amine | 1.7 gm | CNCCC1=CC(=C(C=C1)OC)OC | C11H17NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7,7-Dimethyl-2-(4-chloro-phenyl)-5-[2-(N-methyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino)-ethyl]-5H,7H-imidazo[4,5-h]-isoquinoline-4,6-dione dihydrochloride | Cl.Cl.CC1(N=CC2=C3C(C(C(C2C1=O)CCN(CCC1=CC(=C(C=C1)OC)OC)C)=O)=NC(=N3)C3=CC=C(C=C3)Cl)C | InChI=1S/C31H33ClN4O4.2ClH/c1-31(2)29(38)25-21(13-15-36(3)14-12-18-6-11-23(39-4)24(16-18)40-5)28(37)27-26(22(25)17-33-31)34-30(35-27)19-7-9-20(32)10-8-19;;/h6-11,16-17,21,25H,12-15H2,1-5H3;2*1H
